US07560544B2
Step 1) Preparation of 5-Amino-3H-thiazolo[4,5-d]pyrimidine-2-thione (37)
5-Bromo-pyrimidine-2,4-diamine (2.0 g, 10.58 mmol) [prepared in a manner similar to English et. al. J. Am. Chem. Soc. 1946, 68, 453-458] and O-ethylxanthic acid potassium salt (3.39 g, 21.16 mmol) was heated in DMF (25 mL) to 140° C. After 5 h the reaction was cooled to ambient temperature and 25 mL of water was added. The pH was then adjusted to 5.0 using I N HCl. A red precipitate formed and was collected by filtration, yielding 900 mg (30%) of a solid: 1H NMR (400 MHz, d6-DMSO) δ 13.85 (s, 1H), 8.33 (br s, 1H), 6.90 (s 2H).

reactant | 5-Bromo-pyrimidine-2,4-diamine | 10.58 mmol, 2.0 g | BrC=1C(=NC(=NC1)N)N | C4H5BrN4
reactant | O-ethylxanthic acid potassium salt | 21.16 mmol, 3.39 g | [K+].C(C)OC(=S)[S-]
reactant | water | 25 mL | O | H2O
reactant | HCl | Cl | ClH
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 5-Amino-3H-thiazolo[4,5-d]pyrimidine-2-thione | 900 mg, 30% | NC=1N=CC2=C(N1)NC(S2)=S | C5H4N4S2
